US07846954B2
Synthesized according to General Procedure 4. A solution of HCl in 1,4-dioxane (4M, 32.5 mL, 0. 130 mol) was added to tert-butyl-3-(3,5-dichlorophenyl)pyrrolidine-1-carboxylate (18.3 g, 0.058 mol) and the resulting solution was stirred at room temperature for 1 h. The reaction mixture was slowly poured into aqueous 2 M NaOH solution (500 mL) and extracted with ethyl acetate (3×500 mL). The combined organic extracts were then dried over Na2SO4 and concentrated under reduced pressure to provide crude 3-(3,5-dichlorophenyl)pyrrolidine (12.48 g, 0.058 mol, 100% yield)) as a brown oil. The crude material was dissolved in MeOH (39 mL) and treated with oxalic acid (5.2 g, 0.058 mol) in one portion. The resulting solution was allowed to stand at RT for 30 minutes, the precipitated solid was filtered off, washed with diethyl ether (2×50 mL) and then dried under vacuum to constant weight to provide 3-(3,5-dichlorophenyl)pyrrolidine oxalate as an off-white solid (12.4 g, 0.041 mol, 70% yield). 1H-NMR (400 MHz, DMSO-d6) δ 7.52 (t, J=1.8 Hz, 1H), 7.47 (d, J=1.7 Hz, 2H), 3.62 (dd, J=8.2, 11.0 Hz, 1H), 3.53-3.30 (m, 2H), 3.26-3.08 (m, 2H), 2.40-2.33 (m, 1H) and 2.00-1.90 (m, 1H) ppm. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA), m/z: M+1 obs=216.3; tR=1.00 min.

reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 130 mol, 4M, 32.5 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl-3-(3,5-dichlorophenyl)pyrrolidine-1-carboxylate | 0.058 mol, 18.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC(=CC(=C1)Cl)Cl | C15H19Cl2NO2
solvent | NaOH | 2 M, 500 mL | [OH-].[Na+]
product | 3-(3,5-dichlorophenyl)pyrrolidine | 0.058 mol, 12.48 g, 100% yield | ClC=1C=C(C=C(C1)Cl)C1CNCC1 | C10H11Cl2N
